US07932394B2
(Step 1) Production of 4-(benzyloxy)-N-methylbenzamide
1.77 g of methylamine hydrochloride was added to a pyridine (60 ml) solution of 3 g of 4-benzyloxybenzoic acid, and 5.04 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride was added to it, and stirred at room temperature. After the reaction, the solvent was evaporated away under reduced pressure, and the residue was diluted with ethyl acetate and washed with saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and the residue was crystallized from chloroform/hexane and taken out through filtration to obtain 2.272 g of the entitled compound.

reactant | methylamine hydrochloride | 1.77 g | Cl.CN
reactant | 4-benzyloxybenzoic acid | 3 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.04 g | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 4-(benzyloxy)-N-methylbenzamide | 2.272 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC)C=C1 | C15H15NO2
